US06921763B2
To a mixture of 2-amino-4-ethylphenol (0.89 g, 0.0065 mol) in tetrahydrofuran (80 mL) was added 4-bromophenyl isothiocyanate (1.4 g, 0.0065 mol) at room temperature. The mixture was stirred for 2 hours at room temperature. Anhydrous copper sulfate (6.2 g, 0.039 mol), triethylamine (0.9 mL, 0.0065 mol) and silica gel (11.7 g) were added to the reaction mixture. The mixture was stirred for 4 hours at room temperature. The solvent was removed under reduced pressure. The mixture was filtered through silica gel pad using 25% ethyl acetate/n-heptane as a mobile phase to give brown colored solid. The solid was purified by flash column chromatography on silica using 0%-25% ethyl acetate/n-heptane as a mobile phase. The solvent was removed, and the residue was triturated with n-heptane to give N2-(4-bromophenyl)-5-ethyl-1,3-benzoxazol-2-amine (0.96 g, 0.003 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-95% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 12.1 min. MS: MH+: 318

reactant | 2-amino-4-ethylphenol | 0.0065 mol, 0.89 g | NC1=C(C=CC(=C1)CC)O | C8H11NO
reactant | 4-bromophenyl isothiocyanate | 0.0065 mol, 1.4 g | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | triethylamine | 0.0065 mol, 0.9 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
catalyst | copper sulfate | 0.039 mol, 6.2 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | N2-(4-bromophenyl)-5-ethyl-1,3-benzoxazol-2-amine | 0.003 mol, 0.96 g | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)CC | C15H13BrN2O
